US07612067B2
Preparation of 3-(5-bromo-2-methyl-thiophen-3-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a solution of 8-(1-ethyl-propyl)-2,6-dimethyl-3-(2-methyl-thiophen-3-yl)-imidazo[1,2-b]pyridazine. (0.76 g, 2.42 mmol) and CH2Cl2 (10 mL) is added NBS (0.60 g, 3.37 mmol). The solution is stirred at ambient temperature for 2 hours and concentrated. The solution is dissolved in Et2O (30 mL) washed with water (3×30 mL), brine (30 mL) dried over MgSO4, filtered and concentrated to furnish the title compound (0.95 g, 2.42 mmol, >99%). 1H NMR (CDCl3), δ 0.88 (t, J=7.5 Hz, 6H), 1.74-1.93 (m, 4H), 2.31 (s, 3H), 2.42 (s, 3H), 2.51 (s, 3H), 3.29-3.38 (m, 1H), 6.66 (s, 1H), 7.04 (s, 1H). LC/MS (m/z): calcd. for C18H22BrN3S (M+H)+: 392.2; found: 392.1.

reactant | 8-(1-ethyl-propyl)-2,6-dimethyl-3-(2-methyl-thiophen-3-yl)-imidazo[1,2-b]pyridazine | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(SC=C2)C | C18H23N3S
reactant | NBS | 3.37 mmol, 0.60 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-bromo-2-methyl-thiophen-3-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 2.42 mmol, 0.95 g, >99% | BrC1=CC(=C(S1)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C18H22BrN3S
